US05686442
Next, 1-(4-methoxybenzyl)-5-(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylic acid (c-2': MP) (252 mg, 0.591 mmole) was dissolved in a mixed solvent of ethanol (10 ml) and ethyl acetate (10 ml), and reduced in the presence of 10% palladium on carbon (31 mg) under the hydrogen atmosphere at room temperature overnight to give 5-(2-amino-5-methoxy-4-methylbenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid (c-2: MP) (216 mg, 92%).

reactant | 1-(4-methoxybenzyl)-5-(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylic acid | COC1=CC=C(CN2N=NC(=C2C(C2=C(C=C(C(=C2)OC)C)[N+](=O)[O-])=O)C(=O)O)C=C1 | C20H18N4O7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 31 mg | [Pd] | Pd
product | 5-(2-amino-5-methoxy-4-methylbenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylic acid | 216 mg, 92% | NC1=C(C(=O)C2=C(N=NN2CC2=CC=C(C=C2)OC)C(=O)O)C=C(C(=C1)C)OC | C20H20N4O5
